* File: low_swing_rx.pex.netlist.pex
* Created: Sat Dec  7 20:48:56 2024
* Program "Calibre xRC"
* Version "v2019.4_36.18"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LOW_SWING_RX%VSS 1 2 8 22 25 37 40 50 53 61 69 81 85 VSS
c105 77 VSS 0.00358468f
c106 76 VSS 0.00358468f
c107 75 VSS 0.00358468f
c108 74 VSS 0.00358468f
c109 69 VSS 0.0531037f
c110 61 VSS 0.0111245f
c111 53 VSS 0.0346063f
c112 50 VSS 0.0132824f
c113 40 VSS 0.0687758f
c114 37 VSS 0.0131543f
c115 25 VSS 0.0343049f
c116 22 VSS 0.0111245f
c117 2 VSS 0.178037f
r118 71 72 0.0356211
r119 69 72 0.0356068
r120 66 71 0.087039
r121 64 77 0.0221737
r122 64 66 0.0395632
r123 62 85 22.5519
r124 62 85 22.5519
r125 61 62 26
r126 59 77 0.088264
r127 59 61 0.322182
r128 56 58 0.0356211
r129 54 76 0.0221737
r130 54 56 0.126602
r131 53 77 0.0221737
r132 53 58 0.126602
r133 51 85 21.7381
r134 50 51 26
r135 48 76 0.088264
r136 48 50 0.322182
r137 43 46 0.237379
r138 41 75 0.0221737
r139 41 43 0.1721
r140 40 76 0.0221737
r141 40 46 0.07517
r142 38 81 21.7381
r143 37 38 26
r144 35 75 0.088264
r145 35 37 0.322182
r146 33 34 0.0356211
r147 31 34 0.0969297
r148 28 33 0.104842
r149 28 29 8.66667
r150 26 74 0.0221737
r151 26 28 0.0217597
r152 25 75 0.0221737
r153 25 31 0.0296724
r154 23 81 22.5519
r155 23 81 22.5519
r156 22 23 26
r157 20 74 0.088264
r158 20 22 0.322182
r159 18 19 0.0356211
r160 17 29 64.7228
r161 16 18 0.0178034
r162 16 17 8.66667
r163 14 17 64.7228
r164 13 16 0.237379
r165 13 14 8.66667
r166 11 14 64.7228
r167 10 13 0.237379
r168 10 11 8.66667
r169 8 10 0.0553884
r170 5 11 64.7228
r171 4 8 0.181991
r172 4 5 8.66667
r173 2 74 0.0221737
r174 2 19 0.126602
r175 1 29 51.7782
r176 1 69 26
r177 1 66 8.66667
r178 1 56 8.66667
r179 1 46 8.66667
r180 1 43 8.66667
r181 1 31 8.66667
.ends

.subckt PM_LOW_SWING_RX%VDD 1 2 3 4 6 16 19 26 29 36 39 49 52 59 62 69 72 79 82
+ 106 VSS
c177 106 VSS 6.04295e-20
c178 94 VSS 0.00358468f
c179 92 VSS 0.00358468f
c180 90 VSS 0.00358468f
c181 89 VSS 0.00358468f
c182 88 VSS 0.00358468f
c183 87 VSS 0.00358468f
c184 86 VSS 0.00358468f
c185 82 VSS 0.0347425f
c186 79 VSS 0.0235913f
c187 72 VSS 0.0359706f
c188 69 VSS 0.0145445f
c189 62 VSS 0.0355228f
c190 59 VSS 0.0149303f
c191 52 VSS 0.0404571f
c192 49 VSS 0.0161186f
c193 39 VSS 0.0359706f
c194 36 VSS 0.0145445f
c195 29 VSS 0.0356699f
c196 26 VSS 0.0145445f
c197 19 VSS 0.0354235f
c198 16 VSS 0.0226749f
c199 4 VSS 0.0651638f
r200 82 94 0.0221737
r201 82 84 0.0463533
r202 80 2 20.8376
r203 79 80 26
r204 77 94 0.088264
r205 77 79 0.429577
r206 73 92 0.0221737
r207 73 75 0.201772
r208 72 94 0.0221737
r209 72 75 0.087039
r210 70 2 21.6176
r211 70 2 21.6176
r212 69 70 26
r213 67 92 0.088264
r214 67 69 0.429577
r215 63 90 0.0221737
r216 63 65 0.0514321
r217 62 92 0.0221737
r218 62 65 0.237379
r219 60 2 21.6176
r220 60 2 21.6176
r221 59 60 26
r222 57 90 0.088264
r223 57 59 0.429577
r224 53 89 0.0221737
r225 53 55 0.1721
r226 52 90 0.0221737
r227 52 55 0.15034
r228 50 106 20.8376
r229 49 50 26
r230 47 89 0.088264
r231 47 49 0.429577
r232 42 45 0.237379
r233 42 43 8.66667
r234 40 88 0.0221737
r235 40 42 0.0217597
r236 39 89 0.0221737
r237 39 45 0.0296724
r238 37 106 21.6176
r239 37 106 21.6176
r240 36 37 26
r241 34 88 0.088264
r242 34 36 0.429577
r243 33 43 67.52
r244 32 33 8.66667
r245 30 87 0.0221737
r246 30 32 0.108799
r247 29 88 0.0221737
r248 29 32 0.180012
r249 27 106 21.6176
r250 27 106 21.6176
r251 26 27 26
r252 24 87 0.088264
r253 24 26 0.429577
r254 23 33 67.52
r255 22 23 8.66667
r256 20 86 0.0221737
r257 20 22 0.195838
r258 19 87 0.0221737
r259 19 22 0.0929734
r260 17 106 20.8376
r261 16 17 26
r262 14 86 0.088264
r263 14 16 0.429577
r264 13 23 67.52
r265 12 13 8.66667
r266 10 13 67.52
r267 9 12 0.237379
r268 9 10 8.66667
r269 6 9 0.0553884
r270 4 86 0.0221737
r271 4 12 0.00593447
r272 3 50 9.11243
r273 2 3 24.9452
r274 1 43 54.016
r275 1 92 8.66667
r276 1 84 26
r277 1 75 8.66667
r278 1 65 8.66667
r279 1 55 8.66667
r280 1 45 8.66667
.ends

.subckt PM_LOW_SWING_RX%NET10 1 2 4 5 7 9 11 12 13 16 17 19 22 24 26 29 31 33 92
+ 95 96 101 108 111 115 121 126 131 132 138 139 159 169 187 193 VSS
c260 159 VSS 0.0133722f
c261 169 VSS 0.0135618f
c262 159 VSS 0.0112626f
c263 169 VSS 0.0109664f
c264 159 VSS 0.0112626f
c265 169 VSS 0.013076f
c266 159 VSS 0.0112626f
c267 159 VSS 0.0112627f
c268 159 VSS 0.0122357f
c269 139 VSS 2.87603e-19
c270 137 VSS 0.0040377f
c271 132 VSS 0.0135741f
c272 131 VSS 0.0206886f
c273 126 VSS 0.00283588f
c274 121 VSS 0.00239982f
c275 115 VSS 0.00427429f
c276 111 VSS 0.00272033f
c277 108 VSS 0.00277855f
c278 105 VSS 0.00471264f
c279 101 VSS 0.00703849f
c280 96 VSS 0.00410772f
c281 95 VSS 0.0162941f
c282 92 VSS 0.00283697f
c283 33 VSS 3.88476e-19
c284 31 VSS 3.88476e-19
c285 29 VSS 0.00105368f
c286 26 VSS 0.00152065f
c287 24 VSS 0.00152065f
c288 22 VSS 0.00101663f
c289 19 VSS 0.0128609f
c290 17 VSS 0.00964711f
c291 16 VSS 0.0112898f
c292 13 VSS 0.00689271f
c293 12 VSS 0.00393597f
c294 11 VSS 0.00925313f
c295 9 VSS 0.0111989f
c296 7 VSS 0.00997967f
c297 5 VSS 0.00572146f
c298 4 VSS 0.0131699f
c299 2 VSS 0.00332987f
c300 1 VSS 0.00230173f
r301 133 134 0.110241
r302 131 134 0.385643
r303 131 132 20
r304 129 139 0.0728527
r305 129 133 0.312419
r306 127 193 21.6176
r307 127 193 21.6176
r308 126 127 26
r309 124 126 0.209907
r310 122 187 22.5519
r311 122 187 22.5519
r312 121 122 26
r313 119 139 0.0189332
r314 119 121 0.19038
r315 117 118 0.136756
r316 116 138 0.0860238
r317 116 117 0.391969
r318 115 124 0.0961279
r319 115 118 0.391969
r320 113 114 0.143688
r321 112 137 0.0189332
r322 112 113 0.391969
r323 111 139 0.0728527
r324 111 114 0.391969
r325 109 193 21.6176
r326 109 193 21.6176
r327 108 109 26
r328 106 138 0.0860238
r329 106 108 0.209907
r330 105 138 0.0860238
r331 104 137 0.0728527
r332 104 105 0.107394
r333 102 187 21.7381
r334 101 102 26
r335 99 137 0.0728527
r336 99 101 0.19038
r337 97 98 0.105713
r338 96 97 0.312419
r339 95 138 0.0860238
r340 95 98 0.312419
r341 93 193 21.6176
r342 93 193 21.6176
r343 92 93 26
r344 90 96 0.0961279
r345 90 92 0.209907
r346 35 159 43.35
r347 34 169 43.35
r348 32 159 43.35
r349 32 33 7.65
r350 30 169 43.35
r351 30 31 7.65
r352 28 159 43.35
r353 28 29 1.6837
r354 27 169 43.35
r355 25 159 43.35
r356 25 26 1.6837
r357 23 159 43.35
r358 23 24 1.6837
r359 21 159 43.35
r360 20 33 7.65
r361 19 35 8.54855
r362 19 20 89.25
r363 18 31 7.65
r364 17 34 8.54855
r365 17 18 89.25
r366 16 33 7.65
r367 15 31 7.65
r368 15 16 61.2
r369 14 29 6.47871
r370 13 33 7.65
r371 13 14 89.25
r372 12 27 8.54855
r373 11 31 7.65
r374 11 12 89.25
r375 10 26 6.47871
r376 9 29 6.47871
r377 9 10 89.25
r378 8 24 6.47871
r379 7 26 6.47871
r380 7 8 89.25
r381 6 22 6.47871
r382 5 24 6.47871
r383 5 6 51
r384 4 22 1.6837
r385 3 132 11.7411
r386 3 4 44.625
r387 2 21 8.54855
r388 1 22 6.47871
r389 1 2 22.95
.ends

.subckt PM_LOW_SWING_RX%O 3 6 7 12 15 21 24 25 30 33 37 40 44 46 47 48 49 51 56
+ VSS
c149 49 VSS 0.00141999f
c150 48 VSS 0.0022031f
c151 46 VSS 8.81547e-19
c152 44 VSS 0.0138598f
c153 40 VSS 0.0323478f
c154 37 VSS 0.00703494f
c155 33 VSS 0.00447727f
c156 30 VSS 0.00264356f
c157 27 VSS 0.00267605f
c158 25 VSS 0.00182724f
c159 24 VSS 8.83651e-19
c160 21 VSS 0.00239982f
c161 15 VSS 0.00472158f
c162 12 VSS 0.00277512f
c163 7 VSS 5.46984e-19
c164 6 VSS 0.016377f
c165 3 VSS 0.00285057f
r166 42 44 0.150352
r167 41 49 0.0728527
r168 40 42 0.0961279
r169 40 41 0.43934
r170 38 51 21.7381
r171 37 38 26
r172 35 49 0.0189332
r173 35 37 0.19038
r174 34 47 0.0728527
r175 33 49 0.0728527
r176 33 34 0.312419
r177 31 56 21.6176
r178 31 56 21.6176
r179 30 31 26
r180 28 48 0.0728527
r181 28 30 0.209907
r182 27 48 0.0728527
r183 26 47 0.0189332
r184 26 27 0.107394
r185 24 47 0.0728527
r186 24 25 0.391969
r187 22 51 22.5519
r188 22 51 22.5519
r189 21 22 26
r190 19 25 0.0961279
r191 19 21 0.19038
r192 17 18 0.136756
r193 16 46 0.0728527
r194 16 17 0.312419
r195 15 48 0.0189332
r196 15 18 0.391969
r197 13 56 21.6176
r198 13 56 21.6176
r199 12 13 26
r200 10 46 0.0189332
r201 10 12 0.209907
r202 8 9 0.105713
r203 7 8 0.312419
r204 6 46 0.0728527
r205 6 9 0.312419
r206 4 56 21.6176
r207 4 56 21.6176
r208 3 4 26
r209 1 7 0.0961279
r210 1 3 0.209907
.ends

.subckt PM_LOW_SWING_RX%I 1 2 3 5 7 9 10 11 14 15 17 19 23 25 28 30 32 91 93 94
+ 97 119 129 VSS
c125 119 VSS 0.0120357f
c126 129 VSS 0.013076f
c127 119 VSS 0.0112626f
c128 129 VSS 0.0109664f
c129 119 VSS 0.0112626f
c130 129 VSS 0.0135618f
c131 119 VSS 0.0112626f
c132 119 VSS 0.0112626f
c133 119 VSS 0.0124262f
c134 97 VSS 0.00389125f
c135 94 VSS 0.00620873f
c136 93 VSS 0.0142009f
c137 91 VSS 0.0114358f
c138 32 VSS 3.88476e-19
c139 30 VSS 3.88476e-19
c140 28 VSS 0.00105368f
c141 25 VSS 0.00152065f
c142 23 VSS 0.00152065f
c143 21 VSS 0.00302955f
c144 19 VSS 0.0108647f
c145 17 VSS 0.0116772f
c146 15 VSS 0.0111746f
c147 14 VSS 0.0112898f
c148 11 VSS 0.00743596f
c149 10 VSS 0.00231881f
c150 9 VSS 0.00735047f
c151 7 VSS 0.0111989f
c152 5 VSS 0.00997967f
c153 3 VSS 0.0141402f
c154 2 VSS 0.00572825f
c155 1 VSS 0.0357815f
r156 97 98 20
r157 95 97 0.0390524
r158 93 95 0.0961279
r159 93 94 0.258722
r160 89 94 0.0961279
r161 89 91 0.107394
r162 34 119 43.35
r163 33 129 43.35
r164 31 119 43.35
r165 31 32 7.65
r166 29 129 43.35
r167 29 30 7.65
r168 27 119 43.35
r169 27 28 1.6837
r170 26 129 43.35
r171 24 119 43.35
r172 24 25 1.6837
r173 22 119 43.35
r174 22 23 1.6837
r175 20 119 43.35
r176 20 21 1.6837
r177 19 98 4.17273
r178 18 32 7.65
r179 17 34 8.54855
r180 17 18 89.25
r181 16 30 7.65
r182 15 33 8.54855
r183 15 16 89.25
r184 14 32 7.65
r185 13 30 7.65
r186 13 14 61.2
r187 12 28 6.47871
r188 11 32 7.65
r189 11 12 89.25
r190 10 26 8.54855
r191 9 30 7.65
r192 9 10 89.25
r193 8 25 6.47871
r194 7 28 6.47871
r195 7 8 89.25
r196 6 23 6.47871
r197 5 25 6.47871
r198 5 6 89.25
r199 4 21 6.47871
r200 3 23 6.47871
r201 3 4 89.25
r202 2 19 9.21942
r203 1 21 6.47871
r204 1 2 150.45
.ends

